US07776872B2
To a stirring solution of 3-(1-hydroxy-1-methyl-ethyl)-6-methoxy-naphthalen-2-ol (2.4 g, 10.33 mmol) in 50 mL dichloromethane at room temperature under nitrogen atmosphere, was added triethyl silane (16.5 mL, 103.3 mmol) followed by trifluoroacetic acid (7.96 mL, 103.3 mmol). The reaction mixture was stirred for 40 minutes, after which solvent was removed under reduced pressure. The residue was partitioned between dichloromethane and saturated aqueous potassium carbonate solution. The organic layer was washed with water and brine, dried (Na2SO4), filtered and concentrated under reduced pressure to give 1.2 g of 3-isopropyl-6-methoxy-naphthalen-2-ol as an oil.

reactant | 3-(1-hydroxy-1-methyl-ethyl)-6-methoxy-naphthalen-2-ol | 10.33 mmol, 2.4 g | OC(C)(C)C=1C(=CC2=CC=C(C=C2C1)OC)O | C14H16O3
reactant | triethyl silane | 103.3 mmol, 16.5 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 103.3 mmol, 7.96 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-isopropyl-6-methoxy-naphthalen-2-ol | 1.2 g | C(C)(C)C=1C(=CC2=CC=C(C=C2C1)OC)O | C14H16O2
